US09388197B2
A.2.3.3. Synthesis of 2,4-dichloro-6-methoxybenzylamine
A suspension of 2,4-dichloro-6-methoxybenzaldehyde oxime (2.24 mmol) in 3 mL AcOH was cooled to 0° C. and zinc dust (8.53 mmol) was added. The reaction mixture was stirred at RT for 2 h. It was filtered over a pad of celite and washed with EtOAc and MeOH. The filtrate was conc. and redissolved in water (pH 4 with 2N HCl solution). It was washed once with EtOAc, the ageous phase was basified with 1M NaOH solution, extracted 3 times with EtOAc and DCM. The comb. org. layers were dried over MgSO4 and conc. in vacuo to give the desired product as yellow solid.

reactant | 2,4-dichloro-6-methoxybenzaldehyde oxime | 2.24 mmol | ClC1=C(C=NO)C(=CC(=C1)Cl)OC | C8H7Cl2NO2
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
catalyst | zinc | 8.53 mmol | [Zn] | Zn
product | 2,4-dichloro-6-methoxybenzylamine | ClC1=C(CN)C(=CC(=C1)Cl)OC | C8H9Cl2NO
